US04065473
Similarly, 0.005 moles (1.3 grams) of 6-(2-aminoethyl)-4,5-methylenedioxy phenyl-acetic acid hydrochloride were dissolved in 15 ml of water and to this solution was added 2.12 grams of 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide methotoluenesulfonate in 20 ml of water. After 2 hours at room temperature the precipitate that had formed was filtered off, washed and dried to yield 1,3,4,5-tetrahydro-7,8-methylenedioxy-2H-3-benzazepin-2-one, m.p. 236°-237°. After recrystallization from ether the product melted at 238°-239°.

reactant | 6-(2-aminoethyl)-4,5-methylenedioxy phenyl-acetic acid hydrochloride | 0.005 moles, 1.3 grams | Cl.NCCC1=C2C(=CC=C1CC(=O)O)OCO2
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide | 2.12 grams | C1(CCCCC1)N=C=NCCN1CCOCC1 | C13H23N3O
solvent | water | 15 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 1,3,4,5-tetrahydro-7,8-methylenedioxy-2H-3-benzazepin-2-one | C1OC2=CC3=C(CC(NCC3)=O)C=C2O1 | C11H11NO3
